US08957066B2
DIPEA (0.21 g, 0.54 mmol), o-phenylene diamine (39 mg, 0.36 mmol) and HATU (89 mg, 0.23 mmol) were added to a solution of (E)-3-(2-cinnamylthiazol-4-yl)acrylic acid (50 mg, 0.18 mmol) in DCM (20 mL) and the reaction mixture was stirred overnight at room temperature under nitrogen. After completion of the reaction as indicated by HPLC, the reaction mixture was washed with saturated NaHCO3 and brine. The organic layer was then dried (Na2SO4) and evaporated to give the crude product. Repeated silica gel column chromatography using a 0-10% gradient of MeOH, containing 0.1% NH3 in DCM gave pure (E)-N-(2-aminophenyl)-3-(2-cinnamylthiazol-4-yl)acrylamide (26 mg) as a tan-colored solid. ES+ (M+H)+362. 1H NMR (CD3OD) δ: 7.66 (s, 1H), 7.60 (d, J=15.4 Hz, 1H), 7.39-7.45 (m, 2H), 7.27-7.35 (m, 2H), 7.20 (dd, J=8.0, 1.4 Hz, 1H), 7.17-7.26 (m, 1H), 7.04 (ddd, J=8.0, 7.7, 1.4 Hz, 1H), 7.05 (d, J=15.3 Hz, 1H), 6.87 (dd, J=8.0, 1.4 Hz, 1H), 6.74 (td, J=7.7, 1.4 Hz, 1H), 6.66 (dt, J=15.9, 1.1 Hz, 1H), 6.47 (dt, J=15.9, 6.9 Hz, 1H), 3.95 (dd, J=6.9, 1.1 Hz, 2H)

reactant | DIPEA | 0.54 mmol, 0.21 g | CCN(C(C)C)C(C)C | C8H19N
reactant | o-phenylene diamine | 0.36 mmol, 39 mg | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | HATU | 0.23 mmol, 89 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (E)-3-(2-cinnamylthiazol-4-yl)acrylic acid | 0.18 mmol, 50 mg | C(C=CC1=CC=CC=C1)C=1SC=C(N1)/C=C/C(=O)O | C15H13NO2S
reactant | NH3 | N | H3N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | (E)-N-(2-aminophenyl)-3-(2-cinnamylthiazol-4-yl)acrylamide | 26 mg | NC1=C(C=CC=C1)NC(\C=C\C=1N=C(SC1)CC=CC1=CC=CC=C1)=O | C21H19N3OS
